US05225591
The 1-cyclopentylethyl amine (S/R=3/1) was converted to the hydrochloride by dissolving the combined product of 3 runs (12.4 g) in 200 ml H2O, adjusting the pH to 12.0 with solid NaOH pellets and extracting three times with 100 ml diethyl ether. The combined ether extracts were dried over Na2SO4, then treated with a solution of 2 g HCl in 100 ml methanol (with cooling) and this solution was evaporated to give 1-cyclopentylethyl amine hydrochloride as a white solid - 8.46 g, mp 192- 4° C.

reactant | 1-cyclopentylethyl amine | C1(CCCC1)C(C)N | C7H15N
reactant | hydrochloride | Cl | ClH
reactant | NaOH | [OH-].[Na+]
solvent | H2O | 200 ml | O | H2O
product | 1-cyclopentylethyl amine hydrochloride | Cl.C1(CCCC1)C(C)N | InChI=1S/C7H15N.ClH/c1-6(8)7-4-2-3-5-7;/h6-7H,2-5,8H2,1H3;1H
